US07425631B2
3-(Naphthalen-2-yl-sulfonylamino)-3-phenyl-N-(4-piperidin-1-ylmethyl-indan-1-yl)-propionamide was prepared from N-(4-formyl-indan-1-yl)-3-(naphthalen-2-yl-sulfonylamino)-3-phenyl-propionamide Example 4, Step G and piperidine, using essentially the same procedure described in Example 1, Step H, yielding a white solid. MS (ESI) m/z 568 (M+H)+.

reactant | N-(4-formyl-indan-1-yl)-3-(naphthalen-2-yl-sulfonylamino)-3-phenyl-propionamide | C(=O)C1=C2CCC(C2=CC=C1)NC(CC(C1=CC=CC=C1)NS(=O)(=O)C1=CC2=CC=CC=C2C=C1)=O | C29H26N2O4S
reactant | piperidine | N1CCCCC1 | C5H11N
product | 3-(Naphthalen-2-yl-sulfonylamino)-3-phenyl-N-(4-piperidin-1-ylmethyl-indan-1-yl)-propionamide | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)NC(CC(=O)NC1CCC2=C(C=CC=C12)CN1CCCCC1)C1=CC=CC=C1 | C34H37N3O3S
